US08372866B2
c) 2-(4-hydroxyphenyl)-3-benzyloxy-6-amino-4H-1-benzopyran-4-one hydrochloride
Prepared analogously to Example 5c, starting from 2-(4-hydroxyphenyl)-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one. Yield: 82%; TLC (9/1 Chloroform/Methanol) Rf: 0.71 Elem. anal. C29H23NO4*HCl; theory C, 71.68; H, 4.98; N, 2.88. found C, 71.35; H, 4.76; N, 3.03. 1H-NMR (d6-DMSO): 8.02 (d, 2H), 7.8-7.7 (m, 2H), 7.55-7.25 (m, 11H), 7.18 (d, 2H), 5.22 (s, 2H), 5.08 (s, 2H).

reactant | 2-(4-hydroxyphenyl)-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one | OC1=CC=C(C=C1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(C)=O | C24H19NO5
reactant | HCl | Cl | ClH
solvent | Chloroform Methanol | C(Cl)(Cl)Cl.CO
product | 2-(4-hydroxyphenyl)-3-benzyloxy-6-amino-4H-1-benzopyran-4-one hydrochloride | Yield: 82% | Cl.OC1=CC=C(C=C1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)N | InChI=1S/C22H17NO4.ClH/c23-16-8-11-19-18(12-16)20(25)22(26-13-14-4-2-1-3-5-14)21(27-19)15-6-9-17(24)10-7-15;/h1-12,24H,13,23H2;1H
